* G:\My Drive\CV_Projects_Porfolio_2025\STM32_LoRa_Sensor_ADC\STM32WL-Sensor-Board-Report\Simulation\LTSpice_Analysis\LTspice_Sallen_Key_Diff_Output.asc
* Generated by LTspice 24.1.4 for Windows.
R1 N002 N003 22k
R2 N004 N002 12k
C1 N004 0 150p
C2 out N002 1n
Vsignal1 Vin 0 SINE(1.65 0.5 10k) AC 1 0
V3 N001 0 3.3
R5 N003 Vin 6.8k
C5 N003 0 1n
R6 ADC+ out 1k
C6 ADC+ ADC- 150p
X§U1 N004 out N001 0 out level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 ADC- VCOM 1k
X§U2 NC_01 N006 N005 0 VCOM level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N005 N006 1k
R7 N006 0 1k
C4 N006 0 22µ
C7 0 N005 100n
V1 N005 0 3.3
* SALLEN-KEY ANTI ALIASING FILTER
*.ac dec 100 10 1Meg
* GBW=1Meg .\nAol=100k matching the MCP6001
.tran 0 5m 0 1u
* V(ADC+) - V(ADC-) = Differnetial signal
* Bias Generator
.lib UniversalOpAmp2.lib
.backanno
.end
